US06667320B2
Acetic Acid, 7-acetoxy-4-fluro-heptyl Ester
To a solution of (diethylamino)-sulfur trifluoride (571 mg, 3.54 mmol) in CH2Cl2 was added the solution of acetic acid, 7-acetoxy-4-hydroxy-heptyl ester (403 mg, 1.74 mmol) in CH2Cl2 (10 ml) at −78° C. The resulting mixture was allowed to stir for 15 minutes −78° C., 30 minutes at room temperature and then diluted with ethyl acetate (300 ml). The organic solution was washed with sat. NaHCO3, brine and dried over Na2SO4. Evaporation of the solvent and purification of the residue by column chromatography on silica gel, using 15% ethyl acetate in hexanes, gave the title compound (386 mg, 94%) as a colorless oil.

reactant | (diethylamino)-sulfur trifluoride | 3.54 mmol, 571 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | acetic acid, 7-acetoxy-4-hydroxy-heptyl ester | 1.74 mmol, 403 mg | C(C)(=O)OCCCC(CCCOC(C)=O)O | C11H20O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Acetic Acid, 7-acetoxy-4-fluro-heptyl Ester | 386 mg, 94% | C(C)(=O)OCCCC(CCCOC(C)=O)F | C11H19FO4
